US05677282
Synthesis of 5-(N-(9-flourenylmethoxycarbonyl)homophenylalanylamino)-1,3,4-thiadiazole-2-thione
Fmoc-phenylalanine (0.8 grams), 1-hydroxybenzotriazole (0.38 grams), dicyclohexylcarbodiimide (0.4 grams) and 5-amino-1,3,4-thiadiazole-2-thione (0.4 grams) were reacted according to the procedure described in Example 1. The resulting product was recrystallized from ethanol/pentane to give a white powder. M.P. 186°-187° C. NMR spectrum (d6 -DMSO) 14.08 (s, 1H), 12.6 (s, 1H), 8.00-7.1 (m, 14 H, NH+aromatics), 4.4-4.1 (m, 4H), 2.8-2.3 (m, 2H), 2.1-1.8 (m, 2H).

reactant | Fmoc-phenylalanine | 0.8 grams | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CC1=CC=CC=C1)C(=O)O | C24H21NO4
reactant | 1-hydroxybenzotriazole | 0.38 grams | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 0.4 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 5-amino-1,3,4-thiadiazole-2-thione | 0.4 grams | NC1=NNC(S1)=S | C2H3N3S2
product | 5-(N-(9-flourenylmethoxycarbonyl)homophenylalanylamino)-1,3,4-thiadiazole-2-thione | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CCC1=CC=CC=C1)C(=O)NC1=NNC(S1)=S | C27H24N4O3S2
